US03937837
2-Methyl-4-oxo-4H-1-benzopyran-3-carboxylic acid.
A solution of 10.0 g. (0.0458 mole) of methyl 2-methyl-4-oxo-4H-1-benzopyran-3-carboxylate in 100 ml. of conc. hydrochloric acid was maintained at 80°-90° for 20 minutes. Ice (400 g.) was added and the separated tacky solid was filtered and washed well with water. The crude product was dissolved in 300 ml. of 5% sodium bicarbonate and the insoluble portion was extracted away with 300 ml. of ether. The aqueous phase was acidified with conc. hydrochloric acid to give 6.4 g. (68.3%) of white acid; m.p. 120°-135°. Recrystallization from 2-propanol gave pure product; m.p. 145°-147°.

reactant | methyl 2-methyl-4-oxo-4H-1-benzopyran-3-carboxylate | 0.0458 mole | CC=1OC2=C(C(C1C(=O)OC)=O)C=CC=C2 | C12H10O4
reactant | hydrochloric acid | Cl | ClH
product | 2-Methyl-4-oxo-4H-1-benzopyran-3-carboxylic acid | CC=1OC2=C(C(C1C(=O)O)=O)C=CC=C2 | C11H8O4
